US07947691B2
1-(4-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione
Following general procedure B2 and D1, 3-(2,4-dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione was alkylated with 4-bromobenzyl bromide and subsequently deprotected to provide the title compound as a white solid. 1H NMR (d6-DMSO, 300 MHz) δ 5.52 (s, 2H); 7.29-7.40 (m, 3H); 7.52 (d, J=8 Hz, 2H); 7.60 (dd, J=8 Hz, 1H); 7.75-7.81 (m, 2H); Ret. time=2.70 min., m/z=387.0.

reactant | 3-(2,4-dimethoxy-benzyloxy)-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | COC1=C(CON2C(NC3=C(C2=O)OC2=C3C=CC=C2)=O)C=CC(=C1)OC | C19H16N2O6
reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | 1-(4-Bromo-benzyl)-3-hydroxy-1H-benzo[4,5]furo[3,2-d]pyrimidine-2,4-dione | BrC1=CC=C(CN2C(N(C(C3=C2C2=C(O3)C=CC=C2)=O)O)=O)C=C1 | C17H11BrN2O4
